US07276518B2
N′-[2-(1H-Indol-3-yl)-ethyl]-N,N,N′-trimethyl-1-phenyl-cyclohexane-1,4-diamine dihydrochloride, nonpolar diastereomer
N-ω-Methyltryptamine ([2-(1H-indol-3-yl)ethyl]methylamine, 348 mg) was dissolved in dry 1,2-dichloroethane (10 ml) under argon. After addition of 4-dimethylamino-4-phenylcyclohexanone (435 mg) and glacial acetic acid (114 μl), a bulky precipitate formed. The suspension was stirred for two hours at RT before sodium triacetoxyborohydride (660 mg) was added. The reaction mixture was stirred for two days at RT and was concentrated for working up, the residue was dissolved in water (15 ml) and diethyl ether (20 ml) and the organic phase was separated off. The aqueous phase was extracted with diethyl ether (2×10 ml) and adjusted to pH 10 with 1M NaOH. A white solid precipitated out here and was filtered off with suction, washed and dried (174 mg, m.p. 208-210° C., nonpolar diastereomer). The aqueous phase was brought to pH 11 with 1M NaOH and extracted with ethyl acetate (4×25 ml). The extracts were combined, dried with Na2SO4 and concentrated in vacuo. The residue (469 mg) was separated by flash chromatography with methanol/triethylamine (99:1). The nonpolar diastereomer so obtained (172 mg) was dissolved while warm in 2-butanone/acetone (15 ml/15 ml), and the hydrochloride of N′-[2-(1H-indol-3-yl)-ethyl]-N,N,N′-trimethyl-1-phenyl-cyclohexane-1,4-diamine was precipitated as a white solid at RT with chlorotrimethylsilane (174 μl) (173 mg; m.p. 195-198° C.).

reactant | N-ω-Methyltryptamine | 348 mg | CNCCC1=CNC2=CC=CC=C21 | C11H14N2
reactant | 4-dimethylamino-4-phenylcyclohexanone | 435 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | acetic acid | 114 μl | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 660 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | 2-butanone acetone | 15 ml | CC(CC)=O.CC(=O)C
product | N′-[2-(1H-Indol-3-yl)-ethyl]-N,N,N′-trimethyl-1-phenyl-cyclohexane-1,4-diamine dihydrochloride | Cl.Cl.N1C=C(C2=CC=CC=C12)CCN(C1CCC(CC1)(N(C)C)C1=CC=CC=C1)C | InChI=1S/C25H33N3.2ClH/c1-27(2)25(21-9-5-4-6-10-21)16-13-22(14-17-25)28(3)18-15-20-19-26-24-12-8-7-11-23(20)24;;/h4-12,19,22,26H,13-18H2,1-3H3;2*1H
